US08138340B2
(Thiazol-2-ylmethoxy)-acetic acid methyl ester
NaH (55% dispersion in oil, 1.4 g) was added to a stirred sol. of thiazol-2-ylmethanol (3.55 g, 30.8 mmol) in THF (155 mL). The suspension was then heated to 45° C. for 1 h, and methylbromoacetate (3.40 mL, 37.0 mmol) was added. Stirring was continued at 45° C. for 4 h. The reaction mixture was partitioned between EtOAc and H2O, the phases separated, and the aq. layer extracted with EtOAc (2×). The combined org. layers were dried over MgSO4, filtered, and the solvents were removed in vacuo. Purification of the crude by FC (MeOH/CH2Cl2 1:9) yielded the title compound (5.50 g, 95%) as an orange oil. LC-MS: tR=0.62 min, ES+: 188.14.

reactant | NaH | 1.4 g | [H-].[Na+]
reactant | thiazol-2-ylmethanol | 30.8 mmol, 3.55 g | S1C(=NC=C1)CO | C4H5NOS
reactant | methylbromoacetate | 37.0 mmol, 3.40 mL | COC(CBr)=O | C3H5BrO2
solvent | THF | 155 mL | C1CCOC1 | C4H8O
product | (Thiazol-2-ylmethoxy)-acetic acid methyl ester | 5.50 g, 95% | COC(COCC=1SC=CN1)=O | C7H9NO3S
